US08232312B2
3-chloro-5-nitroanisol
11.1 g 1-chloro-3,5-dinitrobenzene are dissolved in 100 ml of methanol and combined with 3 g sodium methoxide. Then the mixture is refluxed for 48 hours, cooled to ambient temperature and the solid is suction filtered.

reactant | 1-chloro-3,5-dinitrobenzene | 11.1 g | ClC1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | sodium methoxide | 3 g | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 3-chloro-5-nitroanisol | ClC=1C=C(C=C(C1)[N+](=O)[O-])OC | C7H6ClNO3
